Name:  ___              Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Digoxin
 
Attending: ___.
 
Chief Complaint:
Shortness of breath
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
___ yo M with CAD, chronic systolic CHF (LVEF 35%), HTN, moderate 
MR, and CKD who presents with worsening shortness of breath.
.
Per patient, over the past two days, he has had worsening DOE 
when he ambulated to the bathroom. He denied chest pain, cough, 
fever, or lower extremity swelling. He have been compliant to 
medications and weighs himself daily. He reports that his dry 
weight is 165 lbs. He admits to having ___ food a few days 
ago, which may have been the trigger.
.
Per wife, at baseline patient does not exercise regularly but is 
reasonably active. He is able to remove snow/ice from the room 
and can normally walk up a flight of stairs. However, he does 
get tired easily on exertion, though that improves with rest, 
which is different from his admitting symptoms. 
.  
In the ED, initial vitals were 97.8 72 124/94 22 100% NRB 
Labs and imaging significant for CXR with mild volume overload 
and BNP, Cr and Trop similar to baseline. Patient given lasix 
60mg IV x1. 
Vitals on transfer were 97.9  72  140/95  21  98% 2L
.  
On arrival to the floor, patient felt much better. He was 
quickly weaned off oxygen and was able to lie flat. 
.  
On review of systems, he denies any prior history of stroke, 
TIA, deep venous thrombosis, pulmonary embolism, bleeding at the 
time of surgery, myalgias, joint pains, cough, hemoptysis, black 
stools or red stools. He denies recent fevers, chills or rigors. 
He denies exertional buttock or calf pain. All of the other 
review of systems were negative.  
.  
Cardiac review of systems is notable for absence of chest pain, 
paroxysmal nocturnal dyspnea, orthopnea, ankle edema, 
palpitations, syncope or presyncope.  

 
Past Medical History:
1. CARDIAC RISK FACTORS: -Diabetes, -Dyslipidemia, + 
Hypertension  
2. CARDIAC HISTORY:  
-CABG:  
-PERCUTANEOUS CORONARY INTERVENTIONS:  
-PACING/ICD:  
3. OTHER PAST MEDICAL HISTORY:  
1. CAD - per last cath in ___
2. Polycystic kidney dz
3. CKD - baseline cr 2.5-2.7
4. HTN
5. Systolic heart failure - last Echo ___ (LVEF= 35-40 %) 
6. Mod-severe MR
7. Hx of gout
8. Hx of anemia
9. Chronic back pain
10. thyromegaly

 
Social History:
___
Family History:
No family history of early MI, otherwise non-contributory. 
Mother and father died of "old age." Siblings healthy aunt with 
asthma.
 
Physical Exam:
VS: T=97.5 BP=135/100 HR=78 RR=20 O2 sat=95% RA  weight 75.8 kg
GENERAL: Elderly man, lying flat in bed, NAD
HEENT: NCAT. Sclera anicteric. PERRL, EOMI. Conjunctiva were 
pink, no pallor or cyanosis of the oral mucosa. No xanthalesma.  

NECK: Supple with JVP of 12 cm.  
CARDIAC: PMI located in ___ intercostal space, midclavicular 
line. RR, normal S1, S2. No m/r/g. No thrills, lifts. No S3 or 
S4.  
LUNGS: Few crackles at the left bases, otherwise clear 
ABDOMEN: +bs, Soft, slightly distended, NT. No HSM or 
tenderness. Abd aorta not enlarged by palpation. No abdominial 
bruits.  
EXTREMITIES: No c/c/e. No femoral bruits.  
SKIN: No stasis dermatitis, ulcers, scars, or xanthomas.  
PULSES:  
Right: Carotid 2+ Femoral 2+ Popliteal 2+ DP 2+ ___ 2+  
Left: Carotid 2+ Femoral 2+ Popliteal 2+ DP 2+ ___ 2+  
 
Pertinent Results:
1. Labs on admission:
___ 05:20AM BLOOD WBC-3.8* RBC-3.71* Hgb-12.3* Hct-36.0* 
MCV-97 MCH-33.0* MCHC-34.1 RDW-12.5 Plt ___
___ 05:20AM BLOOD Glucose-91 UreaN-32* Creat-2.5* Na-142 
K-3.8 Cl-103 HCO3-29 AnGap-14
___ 05:20AM BLOOD cTropnT-0.04*
___ 05:20AM BLOOD ___
.
2. Labs on discharge:
___ 07:30AM BLOOD WBC-3.8* RBC-3.73* Hgb-12.1* Hct-35.9* 
MCV-96 MCH-32.4* MCHC-33.7 RDW-12.6 Plt ___
___ 07:30AM BLOOD Glucose-94 UreaN-33* Creat-2.7* Na-140 
K-3.9 Cl-103 HCO3-28 AnGap-13
___ 07:30AM BLOOD Calcium-9.3 Phos-4.0 Mg-2.3
.
3. Imaging/diagnostics: 
- CXR (___): No acute intrathoracic process. Unchanged large 
multinodular goiter.
.
- Echocardiogram (___): 
The left atrium is moderately dilated. The right atrium is 
moderately dilated. There is moderate symmetric left ventricular 
hypertrophy. The left ventricular cavity is moderately dilated. 
LV systolic function appears depressed (ejection fraction 30%) 
secondary to extensive severe hypokinesis/akinesis of the 
inferior, posterior, and lateral walls. [Intrinsic left 
ventricular systolic function is likely more depressed given the 
severity of valvular regurgitation.] The right ventricular free 
wall thickness is normal. Right ventricular chamber size is 
normal. with depressed free wall contractility. The aortic root 
is moderately dilated at the sinus level. The ascending aorta is 
mildly dilated. The aortic valve leaflets (3) are mildly 
thickened but aortic stenosis is not present. Mild to moderate 
(___) aortic regurgitation is seen. The mitral valve leaflets 
are mildly thickened. There is no mitral valve prolapse. An 
eccentric, posteriorly directed jet of Moderate to severe (3+) 
mitral regurgitation is seen. The tricuspid valve leaflets are 
mildly thickened. There is mild pulmonary artery systolic 
hypertension. The main pulmonary artery is dilated. There is no 
pericardial effusion. 

Compared with the findings of the prior study (images 
unavailable for review) of ___, the mitral 
regurgitation is increased and the left ventricular ejection 
fraction is decreased.  

 
Brief Hospital Course:
___ yo M with CAD, chronic systolic CHF (LVEF 35%), HTN, moderate 
MR, and CKD who presents with worsening shortness of breath, 
consistent with acute CHF exacerbation.
.
# PUMP: On admission, patient was mildly fluid overloaded, most 
likely from diet indiscretion. CXR unremarkable. BNP was 
elevated at ___, similar to basline. Symptoms quickly improved 
with bolus IV lasix. Repeat echocardiogram showed severe mitral 
regurgitation and LVEF 30%, both worse than previous 
echocardiogram from ___. Weight changed from 78.4 kg on 
admission to 75.8 kg on discharge, which is his dry weight. 
.
# CORONARIES: Patient denied chest pain. EKG on admission 
unremarkable for ACS. Troponin elevated at 0.04 but this is 
baseline and likely a combination of chronic CHF and CKD. 
Patient monitored on telemtry. 
.  
# Hypertension: Systolic blood pressure in the 130-140s. 
Continue home medications Carvedilol 25 mg po BID, Felodipine SR 
10 mg po qd, Lisinopril 20 mg po qd.
. 
# CKD: Cr 2.5 on admission, similar to baseline. Renally-dosed 
medications. 
.  
# Anemia: Baseline Hct ___, on admission 36. Repeat iron 
studies consistent with iron-deficient anemia. Continued on iron 
supplementation. No signs of active bleed. 
 
Medications on Admission:
1. Aspirin 81 mg po qd
2. Carvedilol 25 mg po BID
3. Colchicine 0.6 mg po q1hr PRN for no longer than 6 days, stop 
if diarrhea
4. Delta D3 400 unit po qd
5. Docusate 100 mg po qd prn
6. Omega-3 1000 mg po qd
7. Furosemide 80 mg po qd
8. Felodipine SR 10 mg po qd
9. Ferrous sulfate SR 325 mg po qd
10. Lisinopril 20 mg po qd
11. Multivitamin po qd 
 
Discharge Medications:
1. carvedilol 25 mg Tablet Sig: One (1) Tablet PO twice a day.  
2. aspirin 81 mg Tablet Sig: One (1) Tablet, Chewable PO DAILY 
(Daily).  
3. Delta D3 400 unit Tablet Sig: One (1) Tablet PO once a day.  
4. colchicine 0.6 mg Tablet Sig: One (1) Tablet PO q1hr as 
needed for gout: Please do not take for longer than 6 days. Stop 
if you develop diarrhea. .  
5. docusate sodium 100 mg Tablet Sig: One (1) Capsule PO DAILY 
(Daily) as needed for constipation.  
6. omega-3 fatty acids 1,000 mg Capsule Sig: One (1) Capsule PO 
once a day.  
7. furosemide 80 mg Tablet Sig: One (1) Tablet PO once a day.  
8. felodipine 10 mg Tablet Extended Release 24 hr Sig: One (1) 
Tablet Extended Release 24 hr PO once a day.  
9. ferrous sulfate 325 mg (65 mg Iron) Tablet, Delayed Release 
(E.C.) Sig: One (1) Tablet, Delayed Release (E.C.) PO once a 
day.  
10. lisinopril 20 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
11. multivitamin     Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
PRIMARY DIAGNOSIS:
Chronic systolic congestive heart failure
Coronary artery disease
Chronic kidney disease
Hypertension
.
SECONDARY DIAGNOSES
Anemia
Gout

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Mr. ___, you were admitted to the ___ 
___ because you were short of breath. We gave you medication 
to get rid of the extra fluid in your body to help you breath 
better. You improved. We also did an ultrasound of your heart 
which showed that your heart pumps less well compared to last 
year. Thus, you are even more sensitive to increased salt and 
fluid intake. It is very important that you remain compliant 
with a low sodium (less than 2 gm per day) and fluid restricted 
(2 liters per day) diet. 
.
Please weigh yourself every morning, call MD if weight goes up 
more than 3 lbs.
.
Medications:
ADDED: none
CHANGED: none
REMOVED: none

 
Followup Instructions:
___